Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ cardiac catheterization:
LM: The left main coronary artery. There is a 50% stenosis in 
the distal segment prior to a trifurcation of the LAD, ramus, 
and LCx.
LAD: The left anterior descending coronary artery. The vessel is 
fills from right coronary artery collaterals. There is a ostial 
100% stenosis.
RI: The ramus intermedius. There is a 40% stenosis. It is a 
large vessel that supplies the lateral wall.
Circ: The circumflex coronary artery. There is a ostial 40% 
stenosis and the LCx terminated in a large OMB that supplied the 
lateral wall.
RCA: The right coronary artery. There is a 40% stenosis and the 
distal RCA terminated in smaller PDA and posterolateral branches 
with minor disease.

Interventional Details
Percutaneous Coronary Intervention: Percutaneous coronary 
intervention (PCI) was performed on an ad hoc basis based on the 
coronary angiographic findings from the diagnostic portion of 
this procedure. Cardiac surgery was paged by the surgeon was 
detained in the operating room. Using a ___ Fr 70 ___ sheath 
due to subclavian tortuosity, the LCA was cannulated using a 6 
Fr JCL3.0 guiding catheter and the diagonal branch was crossed 
using a 0.014 BMW wire. Using a 2.0 mm balloon and 0.014 ___ 
graphic intermediate and Pilot 50 wire - the LAD could not be 
crossed due to extensive calcification. It appeared that this 
was a chronic total occlusion and the infarct related artery was 
the diagonal branch. The diagonal branch was dilated with a 2.0 
mm 30 mm balloon for two minutes x 2. This resulted in a 20% 
residual stenosis and TIMI 3 flow into the distal vessel. The 
patient became pain free and the EKG improved.

Complications: There were no clinically significant 
complications.
Findings
• Two vessel coronary artery disease.
• Lateral wall STEMI
• Successful PCI of the diagonal branch without stenting
• Consider PCI of the chronic occlusion of the LAD with

 
History of Present Illness:
___ year old man with a history of elevated blood pressures but 
has not seen a doctor in years who presented to the ER on ___ 
with a 1 week history of viral illness with sore throat, cough, 
and shortness of breath over the
last 2 days. He acutely developed chest pressure at around 
midnight in the ED.

In the ED,  
 - Initial vitals were:  
T: 96.6 HR:86 BP: 190/147 RR:20 Sat: 98% RA 

 - Exam notable for:  benign exam 
 - Labs notable for:  

140 \ 102 / 17 /
----------------  179
4.___  \ 1.0\

Trop 0.30. 
WBC: 11
H/H: 15.5/46.6 
Plts: 300 

 - Studies notable for:  EKG: STEMI with elevation in I, aVL, V2
and reciprocal decpressions in II, III, aVF. 

 - Patient was given:  IV heparin, 243mg aspirin, SL nitro. 

The patient went the cath lab which showed proximal LAD CTO and 
acute occlusion of the diagonal which was ballooned. He was 
loaded with brillinta and aspirin. 

On arrival to the CCU, reported the patient the chest pain has 
improved. Reports having a cough for 2 weeks but improving.
Denies significant SOB though is visibly dyspneic with movement, 
denies
nausea, vomiting, abdominal pain. 

 
Past Medical History:
- white coat hypertension 
- HLD
- small vessel disease 

 
Social History:
___
Family History:
- Mother passed from sepsis
- Father passed aircraft crash 
 
Physical Exam:
ADMISSION EXAM:
================  
VS:  REVIEWED IN METAVISION 
GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple. JVD hard to visualize due to habitus 
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. R radial access is non-tender and not bleeding 

SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO:  alert and oriented 

DISCHARGE EXAM:
===============
VS: 97.8 PO 126 / 77 74 20 97 RA 
Weight:  100.5 kg   (221.56 lb)
GENERAL: Well developed, well nourished in NAD. Mood, affect
appropriate.  
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple.  No JVP
CARDIAC: Normal rate, regular rhythm. No MRG 
LUNGS: LS CTA bilaterally 
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema. 
Access site: R radial access is soft, no hematoma, mild
ecchymosis, +radial pulse, +CSM
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO:  alert and oriented
 
Pertinent Results:
ADMISSION LABS:
===============

___ 10:10AM BLOOD WBC-11.0* RBC-5.08 Hgb-15.5 Hct-46.6 
MCV-92 MCH-30.5 MCHC-33.3 RDW-12.8 RDWSD-42.7 Plt ___
___ 10:10AM BLOOD Neuts-75.9* ___ Monos-3.2* 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-8.32* AbsLymp-2.18 
AbsMono-0.35 AbsEos-0.01* AbsBaso-0.04
___ 10:10AM BLOOD ___ PTT-24.8* ___
___ 10:10AM BLOOD Glucose-179* UreaN-17 Creat-1.0 Na-140 
K-4.8 Cl-102 HCO3-19* AnGap-19*
___ 10:10AM BLOOD ALT-61* AST-62* AlkPhos-47 TotBili-0.3
___ 10:10AM BLOOD cTropnT-0.30*
___ 10:10AM BLOOD Albumin-4.8 Calcium-9.3 Phos-3.2 Mg-1.9

DISCHARGE LABS:
==============
___ 07:32AM BLOOD WBC-9.2 RBC-4.26* Hgb-13.0* Hct-39.4* 
MCV-93 MCH-30.5 MCHC-33.0 RDW-13.1 RDWSD-43.8 Plt ___
___ 07:32AM BLOOD Glucose-103* UreaN-21* Creat-0.9 Na-144 
K-4.6 Cl-111* HCO3-22 AnGap-11
___ 07:32AM BLOOD cTropnT-5.41*
___ 07:32AM BLOOD Mg-2.0

IMAGING:
========
Cath ___
LM: The left main coronary artery. There is a 50% stenosis in 
the
distal segment prior to a trifurcation of the LAD, ramus, and
LCx.
LAD: The left anterior descending coronary artery. The vessel is
fills from right coronary artery collaterals. There is a ostial
100% stenosis.
RI: The ramus intermedius. There is a 40% stenosis. It is a 
large
vessel that supplies the lateral wall.
Circ: The circumflex coronary artery. There is a ostial 40%
stenosis and the LCx terminated in a large OMB that supplied the
lateral wall.
RCA: The right coronary artery. There is a 40% stenosis and the
distal RCA terminated in smaller PDA and posterolateral branches
with minor disease

CXR ___
No previous images. The cardiac silhouette is at the upper 
limits
of normal. There is engorgement of ill defined pulmonary 
vessels,
consistent with pulmonary vascular congestion.  No evidence of
acute focal consolidation. However, in the appropriate clinical
setting, would be difficult to exclude 
superimposed aspiration/pneumonia, especially in the absence of 
a
lateral view. 

CXR ___
Heart size is upper limits of normal.  There has been resolution
of the interstitial densities at the lung bases since the prior
study suggestive of pulmonary edema.  Lungs are now clear.  
There
is no focal consolidation, large pleural effusions, or
pneumothoraces. 

EKG  
___: SR 82 bpm, Resolving ST segments, Q wave in III, aVF
___: SR 81 bpm, STE in I, aVL, V2 and reciprocal depressions
in II, III, aVF. 

TTE ___:
CONCLUSION:
Poor image quality. The left atrium is dilated. No thrombus or
mass is seen in the left ventricle. Overall left ventricular
systolic function is mildly-to-moderately depressed secondary to
hypokinesis of the anterior septum and anterior free wall and
akinesis of the apex. The visually estimated left ventricular
ejection fraction is 40%. There is no resting left ventricular
outflow tract gradient. Normal right ventricular cavity size 
with
normal free wall motion. The aortic sinus diameter is normal for
gender. The aortic valve is not well seen. There is no aortic
valve stenosis. There is no aortic regurgitation. The
mitral valve leaflets appear structurally normal with no mitral
valve prolapse. There is trivial mitral regurgitation. The
pulmonic valve leaflets are normal. The tricuspid valve leaflets
appear structurally normal. There is physiologic tricuspid
regurgitation. The estimated pulmonary artery systolic pressure
is normal. There is no pericardial effusion.  

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE:
======================
___ with history of HTN who presented with chest pain found to
have a STEMI with coronary angio showing acute diagonal 
occlusion
and previous LAD CTO. s/p balloon angioplasty of the diagonal
occlusion 

 #CORONARIES:  2vd; LAD CTO and diagonal 100% stenosis s/p POBA.
40% RI, 40% LCx. 
 #PUMP:  >55% in ___
 #RHYTHM:  sinus 

ACUTE ISSUES:  
=============  
#STEMI
#CAD
Patient presented with chest pain and was found to have STEMI
Patient with trop elevated to 0.30 with STEMI elevation in I,
aVL, V2 with coronary angio showing a LAD CTO and acute diagonal
occlusion s/p POBA. Now chest pain free. 
- Trended trops to peak
- Continue aspirin and brilinta 90mg BID for at least ___ year 
- Will continue discussion regarding opening the LAD CTO
- start atorvastatin 80mg daily. 
- start metoprolol succinate

#Dyspnea 
Patient with CXR showing bilateral cephalization and pulmonary
edema. Likely developed pulmonary edema iso ischemia. 
- Lasix IV 20mg x1 with goal net negative ___ 
- CAD medications as above. 

#Elevated blood pressure: 
Patient presented with BP >200s. history of elevated BP
attributed to white coat hypertension. 
- Started Lisinopril 

TRANSITIONAL ISSUES: 
====================
- Cardiology (___) and PCP ___ scheduled for ___

#CODE:  FULL CODE 
#CONTACT/HCP:  Name of health care proxy: ___
Phone number: ___
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Lisinopril 10 mg PO DAILY  
3.  Metoprolol Succinate XL 50 mg PO DAILY  
4.  TiCAGRELOR 90 mg PO BID  
5.  Aspirin 81 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ST elevation MI
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
 You were admitted after experiencing chest pain, changes on 
your EKG, and abnormal cardiac enzyme values indicating that you 
have had a heart attack.  You had a cardiac catheterization that 
showed significant coronary artery disease. One of your coronary 
arteries was opened by angioplasty. Another one of your coronary 
arteries, the left anterior descending (LAD) is completely 
blocked and probably has been for quite some time, so there was 
no intervention.

 Instructions regarding care of the access site (your right 
wrist) are included with your discharge information. 
 
The following medication changes have been made: 
- Aspirin 81mg daily, you should take this for life. 
- Ticagrelor (Brilinta) 90 mg twice daily- you should take this 
for at least ___ year. ONLY stop when told by a cardiologist 
specifically. Brilinta and Aspirin are extremely important 
medications taken to prevent blood clots from forming in the 
stents in your heart. Stopping either of these medications too 
early can put you at risk for a life threatening heart attack. 
- Atorvastatin (Lipitor) 80mg daily. This medication not only 
reduces cholesterol, but has been shown to help decrease risk of 
heart attack in the future for people who have coronary artery 
(heart) disease. 
- Metoprolol Succinate XL 50 mg - This medication belongs to a 
class of medications known as Beta Blockers.  Beta blockers slow 
the heart down and can lower blood pressure. They help reduce 
the amount of work the heart has to do, and can reduce risk of 
future heart attack. 
- Lisinopril 10 mg daily - This medication belongs to a class of 
medications known as Ace Inhibitors. Ace Inhibitors help to 
reduce blood pressure and decrease the amount of resistance that 
the heart needs to pump against, which decreases strain on the 
heart muscle.
- Start nitroglycerin as needed for chest pain. Take 1 tab under 
the tongue as needed for chest pain. You may repeat this every 5 
mintues for continued chest pain for a TOTAL OF 3 DOSES. If 
chest pain persists after 3 doses, call ___. MAKE SURE YOU LIE 
DOWN IF YOU NEED TO TAKE THIS MEDICATION. 
 
 It is very important to take all of your heart healthy 
medications. In particular, aspirin and Brilinta keep the stents 
in the vessels of the heart open and help reduce your risk of 
having a future heart attack. If you stop these medications or 
miss ___ dose, you risk causing a blood clot forming in your heart 
stents, and you may die from a massive heart attack. Please do 
not stop taking either medication without taking to your heart 
doctor, even if another doctor tells you to stop the 
medications. 
 
 It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program.
  
 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.

 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 Your ___ Cardiac Care Team  
 
Followup Instructions:
___